US08048909B2
tert-Butyl methyl{[1-({3-[(methylamino)carbonyl]phenyl}sulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}carbamate
Using 3-[(4-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoic acid (150 mg) and 2 mol/L methylamine-tetrahydrofuran solution (5 mL), a procedure as in Reference Example 284 was performed to give the title compound as a colorless oil (yield 99 mg, 64%).

reactant | 3-[(4-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoic acid | 150 mg | C(C)(C)(C)OC(=O)N(C)CC=1C=C(N(C1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1)C1=CC=CC=C1 | C24H26N2O6S
reactant | methylamine tetrahydrofuran | 2 mol/L, 5 mL | CN.O1CCCC1
product | tert-Butyl methyl{[1-({3-[(methylamino)carbonyl]phenyl}sulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}carbamate | yield 99 mg, 64% | CN(C(OC(C)(C)C)=O)CC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC(=CC=C1)C(=O)NC | C25H29N3O5S
